US05574055
4.18 g (16.0 mmol) of ethyl 4-cycloheptylphenylcarbamate were treated with 1.3 g (16.0 mmol) of pyridine and 18 g (0.136 mol) of (RS)-4-methoxymethyl-1,3-dioxolan-2-one and stirred at 160° bath temperature for 20 hours. After cooling the reaction mixture was chromatographed on 400 g of silica gel 60 with ether. After recrystallization from isopropyl ether there were obtained 2.05 g of (RS)-3-[(4-cycloheptyl)phenyl]-5-methoxymethyl-oxazolidin-2-one as a white crystallizate. M.p.: 70°-72°.

reactant | ethyl 4-cycloheptylphenylcarbamate | 16.0 mmol, 4.18 g | C1(CCCCCC1)C1=CC=C(C=C1)NC(OCC)=O | C16H23NO2
reactant | pyridine | 16.0 mmol, 1.3 g | N1=CC=CC=C1 | C5H5N
reactant | (RS)-4-methoxymethyl-1,3-dioxolan-2-one | 0.136 mol, 18 g | COCC1OC(OC1)=O | C5H8O4
product | (RS)-3-[(4-cycloheptyl)phenyl]-5-methoxymethyl-oxazolidin-2-one | 2.05 g | C1CCC(CCC1)C1=C(C=CC=C1)N1C(OC(C1)COC)=O | C18H25NO3
